US06448242B1
Preparation of 1,4-bis[[1-[4-methoxy-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine dihydrochloride
Concentrated hydrochloric acid (0.040 ml; 0.48 mmol) was added to a solution of 1,4-bis[[1-[4-methoxy-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine (80 mg; 0.090 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanol-diethyl ether to obtain the title compound as colorless needles.

reactant | hydrochloric acid | 0.48 mmol, 0.040 ml | Cl | ClH
reactant | 1,4-bis[[1-[4-methoxy-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine | 0.090 mmol, 80 mg | COC1=C(C=C(C(=O)N2CCC(CC2)CN2CCN(CC2)CC2CCN(CC2)C(C2=CC(=C(C=C2)OC)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1)C1=CC(=C(C(=C1)OC)OC)OC | C50H64N4O10
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-bis[[1-[4-methoxy-3-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine dihydrochloride | Cl.Cl.COC1=C(C=C(C(=O)N2CCC(CC2)CN2CCN(CC2)CC2CCN(CC2)C(C2=CC(=C(C=C2)OC)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C50H64N4O10.2ClH/c1-57-41-11-9-35(25-39(41)37-27-43(59-3)47(63-7)44(28-37)60-4)49(55)53-17-13-33(14-18-53)31-51-21-23-52(24-22-51)32-34-15-19-54(20-16-34)50(56)36-10-12-42(58-2)40(26-36)38-29-45(61-5)48(64-8)46(30-38)62-6;;/h9-12,25-30,33-34H,13-24,31-32H2,1-8H3;2*1H
